US09169212B2
To a mixture of methyl 4-bromo-3-(4-hydroxyazepan-1-yl)sulfonyl-benzoate (1.00 g, 2.55 mmol, 1.00 Eq) in DMF (15 mL), was added NaH (153.00 mg, 3.82 mmol, 1.50 Eq) in portions at 0° C. under N2. The mixture was stirred at 25° C. for 30 min. Then bromomethylbenzene (654.19 mg, 3.82 mmol, 1.50 Eq) was added and stirred at 25° C. for 16 hours. TLC showed the reaction was completed. The mixture was poured into NH4Cl aqueous and extracted with EA. The combined organic phase was washed with saturated brine, dried with anhydrous Na2SO4, filtered and concentrated in vacuum. The residue was purified by silica gel chromatography (eluting with PE/EA=10/1, 2/1) to afford methyl 3-(4-benzyloxyazepan-1-yl)Sulfonyl-4-bromo-benzoate (550.00 mg, 1.14 mmol, 44.71% yield) as white solid. LCMS: 482/484 [M+1].

reactant | methyl 4-bromo-3-(4-hydroxyazepan-1-yl)sulfonyl-benzoate | 2.55 mmol, 1.00 g, 1.00 Eq | BrC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)N1CCC(CCC1)O | C14H18BrNO5S
reactant | NaH | 3.82 mmol, 153.00 mg, 1.50 Eq | [H-].[Na+]
reactant | bromomethylbenzene | 3.82 mmol, 654.19 mg, 1.50 Eq | BrCC1=CC=CC=C1 | C7H7Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | methyl 3-(4-benzyloxyazepan-1-yl)Sulfonyl-4-bromo-benzoate | 1.14 mmol, 550.00 mg, 44.71% yield | C(C1=CC=CC=C1)OC1CCN(CCC1)S(=O)(=O)C=1C=C(C(=O)OC)C=CC1Br | C21H24BrNO5S
